US05506256
B) (2S)-2-{2-[4-(Benzyloxy)phenoxy]-1-hydroxyethyl}-1-[N-(3-phenylpropionyl)-L-prolyl]pyrrolidine
By the same procedure as in Example 26-D), while using (2S)-2-{2-[4-(benzyloxy)phenoxy]-1-hydroxyethyl}-1-(tert-butoxycarbonyl)pyrrolidine (1.71 g) and N-(3-phenylpropionyl)- L-proline (1.10 g), there was obtained 1.82 g of the title compound.

reactant | (2S)-2-{2-[4-(benzyloxy)phenoxy]-1-hydroxyethyl}-1-(tert-butoxycarbonyl)pyrrolidine | 1.71 g | C(C1=CC=CC=C1)OC1=CC=C(OCC(O)[C@H]2N(CCC2)C(=O)OC(C)(C)C)C=C1 | C24H31NO5
reactant | N-(3-phenylpropionyl)- L-proline | 1.10 g | C1(=CC=CC=C1)CCC(=O)N1[C@H](C(=O)O)CCC1 | C14H17NO3
product | (2S)-2-{2-[4-(Benzyloxy)phenoxy]-1-hydroxyethyl}-1-[N-(3-phenylpropionyl)-L-prolyl]pyrrolidine | 1.82 g | C(C1=CC=CC=C1)OC1=CC=C(OCC(O)[C@H]2N(CCC2)C([C@H]2N(CCC2)C(CCC2=CC=CC=C2)=O)=O)C=C1 | C33H38N2O5
